US04863801
Example 1: Preparation of latex of [ethyl acrylate-methyl methacrylate]
8 g. of Na alkylarylpolyoxyethylene sulfonate (trade name Triton X-200) was dissolved in 1000 ml. of water at 40° C. in a flask with stirrer and condenser. A mixture of 250 g. of ethyl acrylate and 250 g. of methyl methacrylate were separately prepared. A portion of 125 g. of above monomer mixture and 0.5 g. of ammonium persulfate were added to the flask. The temperature was gradually elevated to 85° C. while stirring. At 83° C. the polymerization reaction started and the system was maintained in the condition of moderate reflux for 5 minutes. Then the remaining part of the monomer mixture was added dropwise through a dropping funnel. At the end of addition the reaction was carried out at 90° C. for an additional hour and this permitted the polymerization reaction to proceed to near completion. The temperature was then lowered to 70° C. and the flask put under light vacuum: In this condition under slow stirring and adding water in order to maintain the original level, the unreacted monomer was stripped out to a safe concentration of <3 p.p.m. The final latex is odorless. A sample of latex was dried obtaining a dry polymer content of 33.7%.

reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | ammonium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | O | H2O
product | ethyl acrylate methyl methacrylate | C(C=C)(=O)OCC.C(C(=C)C)(=O)OC | 2C5H8O2
